US03976786
iso-Butyryl chloride (6.3 ml.) was added dropwise during 15 minutes to a stirred solution of 3,5-dinitroaniline (5.5 g.) in a mixture of dimethylformamide (18 ml.) and dry pyridine (18 ml.) maintained at a temperature of 0°-5°C. The reaction mixture was allowed to warm to room temperature during 30 minutes and then added to a mixture of ice and water (200 ml.). The precipitate was filtered off, dissolved in dimethylformamide (50 ml.) and added to a mixture of ice and water (300 ml.) containing concentrated hydrochloric acid (10 ml.). The precipitate was filtered off, washed with saturated aqueous sodium bicarbonate solution and then with water and dried. Crystallisation from aqueous ethanol gave 3',5'-dinitro-iso-butyranilide (5.6 g.), m.p. 165°-168°C.

reactant | iso-Butyryl chloride | 6.3 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 3,5-dinitroaniline | 5.5 g | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
reactant | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 3',5'-dinitro-iso-butyranilide | 5.6 g | [N+](=O)([O-])C=1C=C(NC(C(C)C)=O)C=C(C1)[N+](=O)[O-] | C10H11N3O5
